US08076516B2
Coupling of methyl 3-hydroxybenzoate with 2-(tert-butoxycarbonylamino)ethyl methanesulfonate following the method used in Example 9 gave methyl 3-(2-(tert-butoxycarbonylamino)ethoxy)benzoate as a light yellow oil. Yield (0.65 g, 84%): 1H NMR (400 MHz, CD3OD) δ 7.36 (t, J=8.0 Hz, 1H), 7.26 (t, J=8.0 Hz, 1H), 7.16 (ddd, J=8.4, 2.4, 0.8 Hz, 1H), 6.99 (ddd, J=8.0, 2.4, 0.8 Hz, 1H), 4.03 (t, J=5.6 Hz, 2H), 3.78 (s, 3H), 1.43 (s, 9H).

reactant | methyl 3-hydroxybenzoate | OC=1C=C(C(=O)OC)C=CC1 | C8H8O3
reactant | 2-(tert-butoxycarbonylamino)ethyl methanesulfonate | CS(=O)(=O)OCCNC(=O)OC(C)(C)C | C8H17NO5S
product | methyl 3-(2-(tert-butoxycarbonylamino)ethoxy)benzoate | C(C)(C)(C)OC(=O)NCCOC=1C=C(C(=O)OC)C=CC1 | C15H21NO5
